US07344702B2
To 3,4-dimethoxy phenol (15.4 g, 0.1 mol) in DMF (100 mL) is added propargyl bromide (14.15 g, 0.12 mol) and potassium carbonate (11.88 g, 0.12 mol). The reaction is stirred at room temperature for 12 h, sat. NH4Cl and diethyl ether are added. The organic layers are washed with water, brine and dried over Na2SO4. The crude material is filtered through a pad of silica (1:1 hexanes:dichloromethane) to afford 4-but-2-ynyloxy-1,2-dimethoxybenzene as a yellow oil.

reactant | 3,4-dimethoxy phenol | 0.1 mol, 15.4 g | COC=1C=C(C=CC1OC)O | C8H10O3
reactant | propargyl bromide | 0.12 mol, 14.15 g | C(C#C)Br | C3H3Br
reactant | potassium carbonate | 0.12 mol, 11.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-but-2-ynyloxy-1,2-dimethoxybenzene | C(C#CC)OC1=CC(=C(C=C1)OC)OC | C12H14O3
